US07727988B2
5-(2,4-dimethyl-1,3-oxazol-5-yl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione hydrochloride (E42)
A solution of 1-(4-chloro-butyl)-5-(2,4-dimethyl-oxazol-5-yl)-1H-pyrimidine-2,4-dione (Prep65, 100 mg, 0.34 mmol), (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane (Prep4, 68 mg, 0.3 mmol), and DIPEA (130 mg, 1 mmol) in absolute EtOH (3 ml) was placed in a microwave oven and irradiated at 130° C. for 3 hours. The solvent was removed under vacuum and the residue was partitioned between water and ethyl acetate. The organic phase was evaporated, the crude dissolved in dichloromethane and treated with PS-isocyanate resin (400 mg) under stirring for 3 h. After filtration, the solvent was evaporated and the crude purified by preparative LC-MS. The residue was loaded over a SCX cartridge eluting with MeOH and the product obtained was treated with 4N HCl in dioxane (1 eq), to give the title compound as a white powder. (43 mg, 24% yield).

reactant | 1-(4-chloro-butyl)-5-(2,4-dimethyl-oxazol-5-yl)-1H-pyrimidine-2,4-dione | 0.34 mmol, 100 mg | ClCCCCN1C(NC(C(=C1)C1=C(N=C(O1)C)C)=O)=O | C13H16ClN3O3
reactant | (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane | 0.3 mmol, 68 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | DIPEA | 1 mmol, 130 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 1 eq | O1CCOCC1 | C4H8O2
solvent | EtOH | 3 ml | CCO | C2H6O
product | 5-(2,4-dimethyl-1,3-oxazol-5-yl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione hydrochloride | 24% yield | Cl.CC=1OC(=C(N1)C)C=1C(NC(N(C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C25H27F3N4O3.ClH/c1-15-21(35-16(2)29-15)20-13-32(23(34)30-22(20)33)10-4-3-9-31-12-19-11-24(19,14-31)17-5-7-18(8-6-17)25(26,27)28;/h5-8,13,19H,3-4,9-12,14H2,1-2H3,(H,30,33,34);1H/t19-,24+;/m0./s1
